US04367238
A solution of 3-[2-methoxy-3-(o-tolyloxy)phenyl]propionic acid (15 g) in acetic anhydride (40 ml) was added dropwise to 48% hydriodic acid (80 ml) with stirring under ice-cooling in 5 minutes, and after removing methyl iodide, the mixture was refluxed under heating for 20 minutes. After cooling, the reaction mixture was evaporated, and water was added to the residue and extracted with diethyl ether. The extract was washed with water, dried over magnesium sulfate and evaporated. The residue was added to a mixture of benzene (50 ml) and acetic anhydride (30 ml) and refluxed under heating for an hour. After cooling, the mixture was evaporated, and the residue was dissolved in diethyl ether, washed with water, aqueous sodium hydroxide and water successively, dried and then evaporated. The oily residue (13.8 g) was pulverized with n-hexane to give 8-(o-tolyloxy)chroman-2-one (11.4 g). This substance was purified by recrystallization from a mixture of ethanol and n-hexane. mp 80°-82° C.

reactant | 3-[2-methoxy-3-(o-tolyloxy)phenyl]propionic acid | 15 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)C)CCC(=O)O | C17H18O4
reactant | hydriodic acid | 80 ml | I | HI
solvent | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 8-(o-tolyloxy)chroman-2-one | 11.4 g | C1(=C(C=CC=C1)OC=1C=CC=C2CCC(OC12)=O)C | C16H14O3
